US03950353
The thione (44 g.) was desulphurised by slow addition to a solution prepared from nitric acid (75 ml.), water (150 ml.) and sodium nitrite (1.5 g.) at 15°-20°. Following subsequent basification with sodium carbonate and concentration, the residue was extracted with ethanol-ether 1:1 and distilled to afford 3-ethoxymethyl-4-methyl-1,2,4-triazole (30 g.), b.p. 154°-156°/0.05 mm. The above compound (15 g.) dissolved in 48% aqueous hydrobromic acid (150 ml.) was heated under reflux for 24 hours, concentrated to dryness and the residue obtained (a mixture of 4-methyl-3-bromomethyl-1,2,4-triazole and 4-methyl-3-hydroxymethyl-1,2,4-triazole) was used directly in the reaction with cysteamine hydrochloride and hydrobromic acid as described in Example 1 (i)(a) to give 3-(2-aminoethyl)-4-methyl-1,2,4-triazole dihydrobromide, m.p. 175°-177°.

reactant | 4-methyl-3-bromomethyl-1,2,4-triazole | CN1C(=NN=C1)CBr | C4H6BrN3
reactant | 4-methyl-3-hydroxymethyl-1,2,4-triazole | CN1C(=NN=C1)CO | C4H7N3O
reactant | cysteamine hydrochloride | Cl.NCCS
solvent | hydrobromic acid | 150 ml | Br | BrH
product | 3-(2-aminoethyl)-4-methyl-1,2,4-triazole dihydrobromide | Br.Br.NCCC1=NN=CN1C | InChI=1S/C5H10N4.2BrH/c1-9-4-7-8-5(9)2-3-6;;/h4H,2-3,6H2,1H3;2*1H
